US04341780
Methyl 6-amino-nicotinate(4 g) was reacted with ethyl 2-propylacetoacetate(17.3 g) in the presence of p-toluensulphonic acid (0.16 g) under stirring at 150° C. for 42 hours. After cooling and dilution with hexane the precipitate was filtered and crystallized from methanol, thus giving 2.9 g of 2-methyl-3-propyl-4-oxo-4H-pyrido[1.2-a]pyrimidine-7-carboxylic acid methyl ester m.p. 98°-99° C., which were reacted with benzaldehyde (7 g) in methanol (100 ml), in the presence of sodium methoxide (1.78 g), under stirring at reflux temperature for 144 hours. After cooling the reaction mixture was concentrated in vacuo and diluted with ethyl ether: the precipitate was filtered, washed with ether and then dissolved in water. After acidification with acetic acid the precipitate was filtered and washed with water until neutral: crystallization with methanol gave 1.1 g of 2-trans-(2-phenyl-ethenyl)-3-propyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid, m.p. 250°-252° C., NMR (DMSO d6): vinylic protons δHβ =7.60(d), δHα =8.05(d) p.p.m., JHαHβ =16 Hz.

reactant | Methyl 6-amino-nicotinate | 4 g | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
reactant | ethyl 2-propylacetoacetate | 17.3 g | C(CC)C(C(=O)OCC)C(=O)C | C9H16O3
catalyst | p-toluensulphonic acid | 0.16 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-methyl-3-propyl-4-oxo-4H-pyrido[1.2-a]pyrimidine-7-carboxylic acid methyl ester | 2.9 g | COC(=O)C=1C=CC=2N(C(C(=C(N2)C)CCC)=O)C1 | C14H16N2O3
